US07435837B2
Treatment of 2-allyl-6-bromo-4-fluorophenol (25.1 g, 0.109 mol) with 3-chloroperoxybenzoic acid (77%, 56.24 g, 0.326 mol) followed by potassium carbonate (62.19 g, 0.45 mol) generally according to the procedure described for Intermediate 9 provided 20.98 g (78%) of (±)-(7-bromo-5-fluoro-2,3-dihydro-1-benzofuran-2-yl)methanol as a white solid. Rf=0.54 (silica, ethyl acetate:hexanes 1:1); mp 53-57° C.; Anal. calcd. for C9H8BrFO2.0.1 C4H8O2: C, 44.13; H, 3.47. Found: C, 44.17; H, 3.16.

reactant | 2-allyl-6-bromo-4-fluorophenol | 0.109 mol, 25.1 g | C(C=C)C1=C(C(=CC(=C1)F)Br)O | C9H8BrFO
reactant | 3-chloroperoxybenzoic acid | 0.326 mol, 56.24 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.45 mol, 62.19 g | C([O-])([O-])=O.[K+].[K+]
product | (±)-(7-bromo-5-fluoro-2,3-dihydro-1-benzofuran-2-yl)methanol | 20.98 g, 78% | BrC1=CC(=CC=2CC(OC21)CO)F | C9H8BrFO2
